US06391904B1
Stage A: Ethyl O-[4-(3-Hydroxypropyl)phenyl]-N-[(phenylmethoxy)carbonyl]-homoserinate.
The mixture constituted by 306 mg of 4-hydroxybenzenepropanol, 770 mg of ethyl 4-bromo-2-[[(phenylmethoxy)carbonyl]amino]butanoate and 740 mg of Cs2CO3 in 10 ml of acetonitrile is heated under reflux for 45 minutes, the solid is filtered, washed with dichloromethane then the filtrate is evaporated under reduced pressure until 1.5 g of crude product is obtained which is purified by chromatography on a silica column (Kieselgel 60; 40-63 μm) eluting with a dichloromethane/methanol mixture 95/5. 440 mg of expected product is obtained.

reactant | 4-hydroxybenzenepropanol | 306 mg | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | ethyl 4-bromo-2-[[(phenylmethoxy)carbonyl]amino]butanoate | 770 mg | BrCCC(C(=O)OCC)NC(=O)OCC1=CC=CC=C1 | C14H18BrNO4
reactant | Cs2CO3 | 740 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl O-[4-(3-Hydroxypropyl)phenyl]-N-[(phenylmethoxy)carbonyl]-homoserinate | 440 mg | OCCCC1=CC=C(C=C1)OCC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OCC | C23H29NO6
